data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4569,5214,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[O:23][CH3:24]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:21](=[O:22])[O:23][CH3:24])[NH:10][C:11]1([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,26.14514856939304,-13.414797279547695
3648,4168,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]2[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:18](=[O:19])[O:17]2,water,298.15,12.98922300932998,-15.204146450554465
3961,4534,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:12]#[N:13])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,30.44421681499949,-4.348743017485152
4311,4931,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]#[C:19][C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N:18][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,18.128686374762463,-34.453460535745286
2882,3202,[CH3:18][NH:19][C:20](=[O:21])[C-:22]([C:23](=[O:24])[O:25][CH3:26])[N+:27]([CH3:28])=[C:29]([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:29]([C:30]([CH3:31])=[O:32])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[N:27]([CH3:28])[C:22]2([C:20]([NH:19][CH3:18])=[O:21])[C:23](=[O:24])[O:25][CH3:26],water,298.15,39.04533829890292,-20.411784519951283
4269,4883,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,22.71492277226532,-15.86270138623736
2133,2367,[CH3:1][O:2][C:3]([F:4])=[C:5]([F:6])[F:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]([F:6])([F:7])[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:19]([CH3:20])[C:12]1([C:10]([NH:9][CH3:8])=[O:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,36.29597760487077,-30.06678978463308
5179,5877,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26])[C:27](=[O:28])[NH:29][CH3:30]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:27](=[O:28])[NH:29][CH3:30])[NH:20][C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,29.72451540053829,-1.861640538567792
3851,4407,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2:15]=[NH+:16][N-:17][C:18]([CH3:19])=[O:20]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:17]([C:18]([CH3:19])=[O:20])[NH:16][CH2:15]2,water,298.15,25.34056546891502,-7.437362246346967
3815,4367,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]#[N+:19][O-:20]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[O:20][N:19]=[C:18]2[C:16]([CH3:15])=[O:17],water,298.15,20.432877625848786,-18.06395837773686
258,282,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13](=[O:14])[O:15][CH3:16])=[N+:17]([CH3:18])[NH-:19]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([C:13](=[O:14])[O:15][CH3:16])[N:17]([CH3:18])[NH:19]1,water,298.15,13.52016924148498,-43.54492391052877
